US07402600B2
a) Synthesis of the 3-(6-methoxy-α-methyl-2-naphthalenacetyl) thiazolidin-4-carboxylic acid
To a solution of 6-methoxy-α-methyl-2-naphthalenacetic acid (4.02 g, 17.5 mmoles) in toluene (30 ml) and N,N-dimethylformamide (0.3 ml) cooled at 0° C., oxalylchloride (2.92 ml, 34.06 mmoles) is added. After 2 hours at room temperature, the solution is evaporated at reduced pressure. The obtained residue is dissolved in acetone (50 ml) and the solution is added to a solution of 4-thiazolidincarboxylic acid (2.33 g, 17.5 mmoles) and triethylamine (6.34 ml, 45.5 mmoles) in acetone (50 ml) cooled at 0° C. After 2 hours the solution is acidified with HCl 4 N, concentrated under vacuum, the residue is treated with ethyl acetate and the organic phase is washed first with HCl 2 N, then with water. The organic phase is anhydrified with sodium sulphate and evaporated at reduced pressure. 4.43 g of the expected product are obtained in the form of a white solid having m.p. 165° C.-168° C.

reactant | 6-methoxy-α-methyl-2-naphthalenacetic acid | 17.5 mmoles, 4.02 g | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
reactant | oxalylchloride | 34.06 mmoles, 2.92 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-thiazolidincarboxylic acid | 17.5 mmoles, 2.33 g | S1CNC(C1)C(=O)O | C4H7NO2S
reactant | triethylamine | 45.5 mmoles, 6.34 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 4 N | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-(6-methoxy-α-methyl-2-naphthalenacetyl) thiazolidin-4-carboxylic acid | 4.43 g | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)N1CSCC1C(=O)O)C | C18H19NO4S
